US08247377B2
Intermediate 8: Ethyl 5-amino-1-(4-fluorophenyl)-1H-pyrazole-4-carboxylate
To a stirred suspension of 4-fluorophenylhydrazine hydrochloride (9.76 g, 60 mmol) in ethanol (250 ml) was added triethylamine (9.2 ml, 62 mmol) and to the resulting amber solution was added ethyl 2-cyano-3-ethoxyacrylate (10.15 g, 60 mmol). The solution was heated at reflux temperature for 3.5 hours. The solution was allowed to cool to room temperature and after standing overnight the resultant solid was filtered off, washed with small amount of ethanol and then ether before being dried under vacuum to give the title compound (12.1 g) as an off white solid.

reactant | 4-fluorophenylhydrazine hydrochloride | 60 mmol, 9.76 g | Cl.FC1=CC=C(C=C1)NN
reactant | triethylamine | 62 mmol, 9.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-cyano-3-ethoxyacrylate | 60 mmol, 10.15 g | C(#N)C(C(=O)OCC)=COCC | C8H11NO3
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | Ethyl 5-amino-1-(4-fluorophenyl)-1H-pyrazole-4-carboxylate | 12.1 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)OCC | C12H12FN3O2
